US07576115B2
2) Synthesis of 4-{[(2-{1-[5-(4-trifluoromethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonothioyl]amino}benzoic acid
1-[5-(4-trifluoromethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethanone (0.1694 mmol, HPLC purity 80%, 60.2 mg) and 4-hydrazinocarbonothioylaminobenzoic acid (0.1694 mmol, 35.8 mg) were stirred with dimethylformamide (3 mL) and three drops of concentrated hydrochloric acid at room temperature for 8.5 hours. After addition of water, the precipitated yellow solid was recovered by filtration, washed with water and dried by means of a vacuum pump. Chloroform/n-hexane was added to the resulting solid, and the precipitated solid was recovered by filtration and dried by means of a vacuum pump to give the desired product as a pale yellow solid (72.2 mg, yield 89%).

reactant | 1-[5-(4-trifluoromethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethanone | 0.1694 mmol, 60.2 mg | FC(C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O)(F)F | C13H11F3N2O2
reactant | 4-hydrazinocarbonothioylaminobenzoic acid | 0.1694 mmol, 35.8 mg | N(N)C(=S)NC1=CC=C(C(=O)O)C=C1 | C8H9N3O2S
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | hydrochloric acid | three drops | Cl | ClH
solvent | water | O | H2O
product | 4-{[(2-{1-[5-(4-trifluoromethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonothioyl]amino}benzoic acid | 72.2 mg, yield 89% | FC(C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=S)NC1=CC=C(C(=O)O)C=C1)O)(F)F | C21H18F3N5O3S
